US07256305B2
In a 50 mL-volumetric autoclave were added deaerated ethanol (10 mL) and THF (10 mL), and thereto were added 4-dimethylaminopyridine (61 mg, 0.5 mmol) and (R)-epichlorohydrin (1.9 g, 20 mmol, >99% ee). Then to the mixture was added crystalline dicobaltoctacarbonyl complex (171 mg, 0.5 mmol). After covering the autoclave with a cap, carbon monoxide (2 MPa) was introduced therein and the mixture was reacted at 40° C. for 16 hours. After cooling to room temperature, the solvent was removed in vacuo. The residue was subjected to Kugelrohr distillation to give (R)-4-chloro-3-hydroxybutanoic acid ethyl ester (2.8 g, 83%, >99% ee) as a colorless oil.

reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | (R)-epichlorohydrin | 20 mmol, 1.9 g | C(Cl)[C@H]1CO1 | C3H5ClO
reactant | carbon monoxide | [C]=O | CO
reactant | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.5 mmol, 61 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (R)-4-chloro-3-hydroxybutanoic acid ethyl ester | 2.8 g, 83% | C(C)OC(C[C@H](CCl)O)=O | C6H11ClO3
